US07776922B2
5-Amino-2-(1-benzothien-2-yl)benzamide
2-(1-Benzothien-2-yl)-5-nitrobenzamide (4.75 g) is introduced into THF (250 ml) and, after addition of platinum dioxide (0.57 g), hydrogenated at RT under atmospheric pressure overnight. The reaction mixture is filtered through kieselguhr and washed with THF, and the organic phase is concentrated. The residue is stirred with diethyl ether, and the crystals are filtered off with suction. They are washed with diethyl ether and a little DCM and dried. Yield 2.39 g (56% of theory).

reactant | 2-(1-Benzothien-2-yl)-5-nitrobenzamide | 4.75 g | S1C(=CC2=C1C=CC=C2)C2=C(C(=O)N)C=C(C=C2)[N+](=O)[O-] | C15H10N2O3S
catalyst | platinum dioxide | 0.57 g | [Pt](=O)=O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 5-Amino-2-(1-benzothien-2-yl)benzamide | NC=1C=CC(=C(C(=O)N)C1)C=1SC2=C(C1)C=CC=C2 | C15H12N2OS
